US04912243
An amount, as set forth in Table 1, of a catalyst constituted by palladium supported on active carbon, sold by DUTRAL Company under the trade name MPT/5, containing 5% by weight of palladium, was loaded, in the form of a suspension in n-hexane at 30% by weight, into an autoclave having a volume of 500 cm3. Then methyl-phenyl-dimethoxy-silane and the solvent were added in the amount, as set forth in the Table, till the volume reached 200 cm3. The mixture was then heated gradually over one hour, under strong stirring, at the temperature and the hydrogen pressure, as set forth in Table 1. After the reaction times indicated hereinbefore, the hydrogenation was practically over. The final mass was cooled, the catalyst was separated by decantation and filtration then the solvent was evaporated. Di-cyclohexyl-dimethoxy-silane was obtained, having a purity of 99.6% and in the amount and with yields as set forth in Table 1.

reactant | methyl-phenyl-dimethoxy-silane | C[Si](OC)(OC)C1=CC=CC=C1 | C9H14O2Si
reactant | hydrogen | [H][H] | H2
solvent | n-hexane | CCCCCC | C6H14
catalyst | palladium | [Pd] | Pd
product | Di-cyclohexyl-dimethoxy-silane | C1(CCCCC1)[Si](OC)(OC)C1CCCCC1 | C14H28O2Si
